US08357689B2
1-(2,6-dichloro-phenyl)-1,3-dihydro-indol-2-one
1.5 g sodium-[2-(2,6-dichloro-phenylamino)-phenyl]-acetate are dissolved in 6 ml of water, combined with 5.2 ml 1 N hydrochloric acid and the precipitated solid is suction filtered after stirring for 10 minutes. After drying in vacuo the solid is taken up in 6 ml of tetrahydrofuran, combined with 990 μl triethylamine and 1.17 g N-(3-dimethylaminopropyl)-N′-ethyl-carbodiimide-hydrochloride and stirred for 3 hours. Then it is divided between water and ethyl acetate, the aqueous phase is extracted twice with ethyl acetate and the combined organic phases are dried on magnesium sulphate. The solvents are eliminated in vacuo and the residue is chromatographed on silica gel (cyclohexane/ethyl acetate 70:30 to 20:80).

reactant | sodium [2-(2,6-dichloro-phenylamino)-phenyl]-acetate | 1.5 g | [Na].ClC1=C(C(=CC=C1)Cl)NC1=C(C=CC=C1)CC(=O)[O-]
reactant | hydrochloric acid | 1 N, 5.2 ml | Cl | ClH
solvent | water | 6 ml | O | H2O
product | 1-(2,6-dichloro-phenyl)-1,3-dihydro-indol-2-one | ClC1=C(C(=CC=C1)Cl)N1C(CC2=CC=CC=C12)=O | C14H9Cl2NO
